US08097652B2
Charge to an autoclave hydrogenation apparatus under nitrogen water-wet 5% palladium on carbon (453 g), ethanol (6.36 L), 2-phenylpropionitrile (636 g, 4.85 moles) and finally concentrated (12M) hydrochloric acid (613 g, 5.6 mole). Stir the mixture rapidly and pressurize to 75 to 78 psi with hydrogen. Heat the mixture 50° C. to 64° C. for 3 hours. Depressurize and filter the reaction mixture to afford two lots of filtrate. Concentrate filtrates under reduced pressure to approximately 400 mL each. Add methyl tert-butyl ether (MTBE) (2.2 L each) to each lot. Stir the precipitate overnight. Filter and wash solids with fresh MTBE (100 mL) and dry overnight. Combine the lots to afford 2-phenyl-1-propylamine HCl (634.4 g, 76.2%) as a white powder.

reactant | ethanol | 6.36 L | C(C)O | C2H6O
reactant | 2-phenylpropionitrile | 4.85 moles, 636 g | C1(=CC=CC=C1)C(C#N)C | C9H9N
reactant | hydrochloric acid | 5.6 mole, 12M, 613 g | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methyl tert-butyl ether | 2.2 L | C(C)(C)(C)OC | C5H12O
product | 2-phenyl-1-propylamine HCl | 634.4 g, 76.2% | Cl.C1(=CC=CC=C1)C(CN)C | InChI=1S/C9H13N.ClH/c1-8(7-10)9-5-3-2-4-6-9;/h2-6,8H,7,10H2,1H3;1H
